US08114868B2
To a suspension of NaH (18 mg, 0.72 mmol) in THF (0.5 mL) was added a solution of (R)-6-(3-(tert-butyldimethylsilyloxy)propyl)-6-(4-fluorophenyl)-3-((S)-1-(4-(6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-1,3-oxazinan-2-one (100 mg, 0.18 mmol) in THF (10 mL) at 0° C. The resulting mixture was stirred for 1 h. Then CH3I (613 mg, 43.2 mmol) was added, and the mixture was stirred for 3 h. The reaction was quenched with aq NH4Cl solution. The organic phase was separated, and concentrated to give (R)-6-(3-(tert-butyldimethylsilyloxy)propyl)-6-(4-fluorophenyl)-3-((S)-1-(4-(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-1,3-oxazinan-2-one (104 mg, 100%), which was used for the next step without further purification. Step 6

reactant | NaH | 0.72 mmol, 18 mg | [H-].[Na+]
reactant | (R)-6-(3-(tert-butyldimethylsilyloxy)propyl)-6-(4-fluorophenyl)-3-((S)-1-(4-(6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-1,3-oxazinan-2-one | 0.18 mmol, 100 mg | [Si](C)(C)(C(C)(C)C)OCCC[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=CNC(C=C1)=O)C1=CC=C(C=C1)F | C32H41FN2O4Si
reactant | CH3I | 43.2 mmol, 613 mg | CI | CH3I
solvent | THF | 0.5 mL | C1CCOC1 | C4H8O
solvent | THF | 10 mL | C1CCOC1 | C4H8O
product | (R)-6-(3-(tert-butyldimethylsilyloxy)propyl)-6-(4-fluorophenyl)-3-((S)-1-(4-(1-methyl-6-oxo-1,6-dihydropyridin-3-yl)phenyl)ethyl)-1,3-oxazinan-2-one | 104 mg, 100% | [Si](C)(C)(C(C)(C)C)OCCC[C@@]1(CCN(C(O1)=O)[C@@H](C)C1=CC=C(C=C1)C1=CN(C(C=C1)=O)C)C1=CC=C(C=C1)F | C33H43FN2O4Si
